US05358950
49.9 g of 2-(4-methylphenyl)-3-cyano-4,5-dihydrothiophene, prepared in D), are dissolved in 200 ml of carbon tetrachloride, the mixture is heated to reflux and, after two hours, 11 g of bromine, dissolved in 200 ml of carbon tetrachloride, are added dropwise. Refluxing is continued until evolution of hydrobromic acid has ceased, and the solvent is evaporated off under vacuum. The residue is taken up in 200 ml of anhydrous tetrahydrofuran, and 28 g of potassium tert-butylate are added. The mixture is heated to reflux for one hour, then cooled and treated with water and sodium chloride and extracted with ether. The organic phase is evaporated under vacuum to give 31.8 g of 2-(4-methylphenyl)-3-cyanothiophene in the form of an oil, which is used without further purification for the next step.

reactant | 2-(4-methylphenyl)-3-cyano-4,5-dihydrothiophene | 49.9 g | CC1=CC=C(C=C1)C=1SCCC1C#N | C12H11NS
reactant | bromine | 11 g | BrBr | Br2
reactant | hydrobromic acid | Br | BrH
solvent | carbon tetrachloride | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(4-methylphenyl)-3-cyanothiophene | 31.8 g | CC1=CC=C(C=C1)C=1SC=CC1C#N | C12H9NS
